US06166015
(S)-1-(tert-Butoxycarbonylamino)-3-hydroxypyrrolidine (40 g, 0.21 mol) was dissolved in anhydrous methylene chloride (400 mL), in the presence of N,N-diisopropyl-ethylamine (73 mL, 0.42 mol, 2 equiv.) and cooled using an ice bath. This solution was treated with methanesulfonyl chloride (18 mL, 0.23 mol, 1.1 equiv.) over a 30 min. period and was then allowed to stir at room temperature for 4 h. The solution was concentrated and the residue dissolved in ethyl acetate (250 mL). The resulting organic solution washed with 5% NaHCO3 and then with brine. The organic extract was dried over magnesium sulfate, filtered and concentrated to give (S)-1-(tert-butoxycarbonyl-amino)-3-methanesulfonyloxypyrrolidine as a dark oil (39 g) which was used directly without further purification.

reactant | (S)-1-(tert-Butoxycarbonylamino)-3-hydroxypyrrolidine | 0.21 mol, 40 g | C(C)(C)(C)OC(=O)NN1C[C@H](CC1)O | C9H18N2O3
reactant | N,N-diisopropyl-ethylamine | 0.42 mol, 73 mL, 2 equiv. | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 0.23 mol, 18 mL, 1.1 equiv. | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(tert-butoxycarbonyl-amino)-3-methanesulfonyloxypyrrolidine | 39 g | C(C)(C)(C)OC(=O)NN1C[C@H](CC1)OS(=O)(=O)C | C10H20N2O5S
